US07683079B2
Step F]: (3R,4S)-(4-Amino-1-phenethyl-piperidine-3-yl)-thiazolidin-3-yl-methanone
(3R,4S)-[1-Phenethyl-3-(thiazolidine-3-carbonyl)-piperidine-4-yl]-carbamic acid benzyl ester (216 mg) was treated with 33% HBr in acetic acid (2.5 ml) for 2 hours at RT under argon. Ether (15 ml) was added and the resulting suspension was cooled to −10° C. and stirred for 1 hour. The solvent was then decanted and the solid washed with a small amount of EtOH. The residue was then dissolved in water (pH was adjusted to 10 with conc. NH4OH) and the aqueous layer was saturated with NaCl and extracted with ethyl acetate. The organic layer was separated, washed with brine, dried (Na2SO4) and evaporated to give a residue that was purified by flash chromatography (gradient of MeOH in DCM containing 0.5% NH4OH) to furnish the desired product as a light yellow oil (92 mg). MS (ESI): 320.1 MH+).

reactant | (3R,4S)-[1-Phenethyl-3-(thiazolidine-3-carbonyl)-piperidine-4-yl]-carbamic acid benzyl ester | 216 mg | C(C1=CC=CC=C1)OC(N[C@@H]1[C@@H](CN(CC1)CCC1=CC=CC=C1)C(=O)N1CSCC1)=O | C25H31N3O3S
reactant | HBr | Br | BrH
reactant | Ether | 15 ml | CCOCC | C4H10O
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | (3R,4S)-(4-Amino-1-phenethyl-piperidine-3-yl)-thiazolidin-3-yl-methanone | 92 mg | N[C@@H]1[C@@H](CN(CC1)CCC1=CC=CC=C1)C(=O)N1CSCC1 | C17H25N3OS
